US07067517B2
(2-Carbamoyl-4-chloro-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester.
The title product was prepared from 5-chloro-2-(methylamino)-benzamide and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, preparative HPLC (method C) (31%, light yellow oil). HPLC-MS m/z=466.1 (M+1), Rt: 3.99 min.

reactant | 5-chloro-2-(methylamino)-benzamide | ClC=1C=CC(=C(C(=O)N)C1)NC | C8H9ClN2O
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
product | (2-Carbamoyl-4-chloro-phenyl)-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C1=C(C=C(C=C1)Cl)C(N)=O)=O)(F)F | C21H15ClF3N3O4
